US06326368B1
3-bromo-4-hydroxy-5-methoxy-a,a-dimethylbenzenemethanol (1.16 g) was dissolved in 10% NaOH (1.78 g) and 5 mL of water. The solvent was stripped under reduced pressure. The salt was taken up in 50 mL acetonitrile and cooled to 0°-5° C. 2,4-dichloro-6-methyl-1,3,5-triazine (0.61g) was added and the mixture was stirred at 0°-5° C. for 1 hour. The solvent was removed under reduced pressure and the residue was extracted with methylene chloride. The extracts were combined and stripped under reduced pressure to yield 3-bromo-4-[[4-chloro-6-methyl-1,3,5-triazin-2-yl]oxy]-5-methoxy-a,a-dimethylbenzenemethanol.

reactant | 3-bromo-4-hydroxy-5-methoxy-a,a-dimethylbenzenemethanol | 1.16 g | BrC=1C=C(C=C(C1O)OC)C(O)(C)C | C10H13BrO3
reactant | 2,4-dichloro-6-methyl-1,3,5-triazine | 0.61g | ClC1=NC(=NC(=N1)Cl)C | C4H3Cl2N3
solvent | NaOH | 1.78 g | [OH-].[Na+]
solvent | water | 5 mL | O | H2O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 3-bromo-4-[[4-chloro-6-methyl-1,3,5-triazin-2-yl]oxy]-5-methoxy-a,a-dimethylbenzenemethanol | BrC=1C=C(C=C(C1OC1=NC(=NC(=N1)Cl)C)OC)C(O)(C)C | C14H15BrClN3O3
